US07385060B2
Industrial Production of Tolperisone Hydrochloride
75 kg piperidine hydrochloride and 105 kg 4-methylpropiophenone are heated to 90° C. with 180 kg of 1,3-dioxolane and 12 kg of hydrochloric acid under a nitrogen atmosphere for 7 to 20 hours. With addition of 500 kg of ethyl acetate and 440 kg MTBE at a temperature in the range of (40-80° C.), a suspension of the product is produced. After that the solid is separated from the liquid as a damp product and then dried at 60-80° C. in the vacuum oven (200-500 mbar) over a period of 12-24 hours whereby 140 kg (81.5%) of colorless crystals are isolated.

reactant | piperidine hydrochloride | 75 kg | Cl.N1CCCCC1
reactant | 4-methylpropiophenone | 105 kg | CCC(=O)C1=CC=C(C=C1)C | C10H12O
reactant | 1,3-dioxolane | 180 kg | O1COCC1 | C3H6O2
reactant | hydrochloric acid | 12 kg | Cl | ClH
solvent | MTBE | 440 kg | CC(C)(C)OC | C5H12O
solvent | ethyl acetate | 500 kg | C(C)(=O)OCC | C4H8O2
product | Tolperisone Hydrochloride | CC=1C=CC(=CC1)C(=O)C(C)CN2CCCCC2.Cl | InChI=1S/C16H23NO.ClH/c1-13-6-8-15(9-7-13)16(18)14(2)12-17-10-4-3-5-11-17;/h6-9,14H,3-5,10-12H2,1-2H3;1H
